US05451601
0.39 g of carbonyldiimidazole is added to a solution, cooled to +4° C., of 0.43 g of (2-dimethylaminophenyl)-acetic acid in 15 cm3 of dry dichloromethane. The mixture is stirred for one hour at +4° C. and then a solution of 0.84 g of (3aR,7S,7aR)-7-chloro-4,4-diphenylperhydro-isoindole hydrochloride in 10 cm3 of dry dichloromethane is then added followed by a solution of 0.34 cm3 of triethylamine in 10 cm3 of dry dichloromethane. The reaction mixture is stirred at room temperature for 20 hours and then diluted with 100 cm3 of dichloromethane, washed with 50 cm3 of water and then with a saturated aqueous solution of sodium chloride, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.04-0.06 mm, diameter 3 cm, height 23 cm), eluting under a nitrogen pressure of 0.4 bar with an ethyl acetate and cyclohexane mixture (25/75 by volume) and collecting fractions of 80 cm3. Fraction 2 is concentrated to dryness under reduced pressure (2.7 kPa). The product, which is obtained in the form of a base, is converted to the hydrochloride by dissolving in 4 cm3 of acetonitrile followed by the addition of 6 cm3 of a 3.2N solution of hydrochloric acid in ethyl ether, washing with isopropyl ether and drying. 0.08 g of (3aR,7S,7aR)-7-chloro-2-[(2-dimethylamino-phenyl)acetyl]-4,4-diphenylperhydroisoindole hydrochloride is obtained in the form of a beige solid.

reactant | carbonyldiimidazole | 0.39 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (2-dimethylaminophenyl)-acetic acid | 0.43 g | CN(C1=C(C=CC=C1)CC(=O)O)C | C10H13NO2
reactant | (3aR,7S,7aR)-7-chloro-4,4-diphenylperhydro-isoindole hydrochloride | 0.84 g | Cl.Cl[C@H]1CCC([C@@H]2CNC[C@H]12)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | hydrochloride | Cl | ClH
solvent | dichloromethane | 15 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
solvent | acetonitrile | 4 cm3 | C(C)#N | C2H3N
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | triethylamine | 0.34 cm3 | C(C)N(CC)CC | C6H15N
product | (3aR,7S,7aR)-7-chloro-2-[(2-dimethylamino-phenyl)acetyl]-4,4-diphenylperhydroisoindole hydrochloride | 0.08 g | Cl.Cl[C@H]1CCC([C@@H]2CN(C[C@H]12)C(CC1=C(C=CC=C1)N(C)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C30H33ClN2O.ClH/c1-32(2)28-16-10-9-11-22(28)19-29(34)33-20-25-26(21-33)30(18-17-27(25)31,23-12-5-3-6-13-23)24-14-7-4-8-15-24;/h3-16,25-27H,17-21H2,1-2H3;1H/t25-,26+,27-;/m0./s1
